US05167695
2,7-Dimethyloxazolo[5,4-h]quinoline
3.48 g (20 mmol) of 8-amino-7-hydroxy-3-methylquinoline and 16.2 g (100 mmol) of triethyl orthoacetate are heated at 100° C. for 1 hour. The reaction mixture is then allowed to cool to room temperature, 50 ml of petroleum ether are added while stirring vigorously, and the precipitate is filtered off with suction.

reactant | 8-amino-7-hydroxy-3-methylquinoline | 20 mmol, 3.48 g | NC=1C(=CC=C2C=C(C=NC12)C)O | C10H10N2O
reactant | triethyl orthoacetate | 100 mmol, 16.2 g | C(C)(OCC)(OCC)OCC | C8H18O3
product | 2,7-Dimethyloxazolo[5,4-h]quinoline | CC=1OC=2C=CC=3C=C(C=NC3C2N1)C | C12H10N2O
